US08835420B2
Step A: 1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine
To a first vessel charged with toluene (5.1 L) was added 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (300 g, 1.27 mol) under nitrogen. The solution was cooled to 5-10° C. A 3M solution of CH3MgCl in THF (637 mL, 1.91 mol) was added slowly over a 35 minute period while maintaining the temperature of the reaction mixture below 30° C. The reaction mixture was stirred for 2 hours at 15-20° C. To a second vessel charged with methanol at 0-5° C. was added sodium methylate (24.4 mL) under nitrogen. Sodium borohydride (72.2 g, 1.91 mol) was added to the methanol solution portion-wise over a 20 minute period at 0-5° C. The borohydride solution was stirred for 1 hour. The contents of the first vessel were then transferred into the second vessel slowly over a 2 hour period while maintaining the temperature of the reaction mixture in the second vessel below 30° C. Following the transfer of the Grignard solution, the first vessel was rinsed with toluene (0.60 L) which was added to the second vessel. The first vessel was next charged with methanol (0.60 L) over a 10 minute period at a temperature less than 30° C. The methanol solution was subsequently transferred to the second vessel, and the reaction mixture was stirred at 0-5° C. for an additional 2 hours. The reaction mixture was then transferred into a third vessel charged with a 2M HCl solution (2.40 L) at 5-15° C. over a period of 1.25 hours. Following the transfer, the second vessel was rinsed with toluene (0.60 L), which was added to the third vessel, and the reaction mixture was stirred for 16 hours. The mixture was warmed to 40-45° C. and 2M NaOH (1.0 L) was added slowly over a 20 minute period until the pH of the aqueous phase was 8.5. The reaction mixture was stirred for an additional 40 minutes, and the pH of the aqueous phase was confirmed to be 8.5. The organic and aqueous phases were separated. The aqueous phase was extracted with toluene (2×3.0 L). The organic layers were combined and screened to remove particulates. The filtrate was concentrated under vacuum at 50° C. until distillation ceased. Isopropanol (3.0 L) was added, and the reaction mixture concentrated under vacuum at 50° C. Additional isopropanol (300 mL) was added to give the title compound as a solution in IPA (230.7 g by gravimetric assay).

reactant | 6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 1.27 mol, 300 g | BrC=1C=C2C(=NC1C#N)C=CN2C | C9H6BrN3
reactant | CH3MgCl | C[Mg]Cl
reactant | THF | 1.91 mol, 637 mL | C1CCOC1 | C4H8O
reactant | sodium methylate | 24.4 mL | C[O-].[Na+]
reactant | Sodium borohydride | 1.91 mol, 72.2 g | [BH4-].[Na+]
reactant | borohydride | [BH4-]
solvent | methanol | CO | CH4O
solvent | toluene | 5.1 L | C1(=CC=CC=C1)C | C7H8
product | 1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine | BrC=1C=C2C(=NC1C(C)N)C=CN2C | C10H12BrN3
